US08211897B2
To a solution of (2S,4R)-1-((S)-2-amino-3,3-dimethylbutanoyl)-4-(5-chloro-pyridin-2-yloxy)-N-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-yl)pyrrolidine-2-carboxamide HCl salt (45 mg, 0.077 mmol) in dichloromethane (3.0 mL) was added triethylamine (0.02 mL, 0.154 mmol). After 5 minutes at room temperature, tert-butylisocyanate (0.01 mL, 0.077 mmol) was added and the reaction mixture was stirred at room temperature. After 16 hours, the reaction mixture was diluted with dichloromethane and washed with 1N HCl, saturated sodium bicarbonate, and brine. The dichloromethane layer was then evaporated to dryness under reduced pressure to give (2S,4R)-1-((S)-2-(3-tert-butylureido)-3,3-dimethylbutanoyl)-4-(5-chloropyridin-2-yloxy)-N-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-yl)pyrrolidine-2-carboxamide.

reactant | (2S,4R)-1-((S)-2-amino-3,3-dimethylbutanoyl)-4-(5-chloro-pyridin-2-yloxy)-N-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-yl)pyrrolidine-2-carboxamide HCl salt | 0.077 mmol, 45 mg | Cl.N[C@H](C(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C=C1)Cl)C(=O)N[C@@H](CC1CCC1)C(C(=O)NC1CC1)O)C(C)(C)C
reactant | triethylamine | 0.154 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylisocyanate | 0.077 mmol, 0.01 mL | C(C)(C)(C)N=C=O | C5H9NO
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-((S)-2-(3-tert-butylureido)-3,3-dimethylbutanoyl)-4-(5-chloropyridin-2-yloxy)-N-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-yl)pyrrolidine-2-carboxamide | C(C)(C)(C)NC(N[C@H](C(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C=C1)Cl)C(=O)N[C@@H](CC1CCC1)C(C(=O)NC1CC1)O)C(C)(C)C)=O | C32H49ClN6O6
